Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left foot gangrene
 
Major Surgical or Invasive Procedure:
amputation ___ and ___ digits of the left foot

 
History of Present Illness:
Mr. ___ is a ___ who presents to the vascular surgery
inpatient unit for a planned amputation of the first and third
digits of the left foot
 
Past Medical History:
PMHx: NSTEMI/CAD (s/p 5vCABG ___, afib, ischemic 
cardiomyopathy (EF 15% ___ Cardiologist), PAD, 
DM2, chronic pain syndrome, nocturia, peripheral neuropathy, 
lumbago, CKD on HD (___), cardioembolic stroke (L 
hemiplegia, ___ Neurology), L atrial appendage clot on 
coumadin depression, ventricular tachycardia, rhabdomyolysis

PSHx: L fem-peroneal bypass ___: LLE angiogram, L 
BK ___ bypass w/ NRSVG (Cambpell), R BKA ___, 
___, R pop-DP bypass, ___ toe amputation ___ 
(___, Vascular surgeon Dr ___ 
___, RLE hematoma evacuation ___ (___), 
bypass graft explantation, tonsillectomy, Debridement ankle 
infection ___ Revision right ankle ligament reconstruction with 
Achilles tendon allograft ___, 5V CABG ___.
 
Social History:
___
Family History:
CAD, DM, stroke 
 
Physical Exam:
T 97.4 HR 60, BP 111/53, RR 18, SpO2 96%Ra, FSG 135
General: Alert, oriented, in NAD  
HEENT: MMM, no ictertus. 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended
Ext: s/p amputation ___ and ___ digits of the left foot, 
dressings
c/d/i, wound healing appropriately 
Neuro: No focal deficits. normal speech  
Access: Rt tunneled line is clean and intact
Distal pulses: R foot s/p BKA. L foot with easily Dopplerable 
signals at ___ and DP.
 
Pertinent Results:
___ 06:10AM BLOOD WBC-5.6 RBC-4.02* Hgb-10.3* Hct-35.8* 
MCV-89 MCH-25.6* MCHC-28.8* RDW-18.8* RDWSD-61.4* Plt Ct-93*
___ 05:42AM BLOOD WBC-6.2 RBC-3.97* Hgb-10.2* Hct-35.6* 
MCV-90 MCH-25.7* MCHC-28.7* RDW-18.7* RDWSD-61.6* Plt Ct-91*
___ 04:11AM BLOOD WBC-6.3 RBC-4.09* Hgb-10.6* Hct-36.4* 
MCV-89 MCH-25.9* MCHC-29.1* RDW-18.6* RDWSD-60.6* Plt Ct-91*
___ 01:05PM BLOOD WBC-6.2 RBC-3.91* Hgb-10.2* Hct-35.0* 
MCV-90 MCH-26.1 MCHC-29.1* RDW-18.8* RDWSD-61.4* Plt Ct-98*
___ 02:50AM BLOOD WBC-7.0 RBC-3.88* Hgb-10.0* Hct-34.5* 
MCV-89 MCH-25.8* MCHC-29.0* RDW-18.6* RDWSD-59.6* Plt ___
___ 05:09AM BLOOD WBC-8.4 RBC-4.71 Hgb-12.2* Hct-41.8 
MCV-89 MCH-25.9* MCHC-29.2* RDW-18.6* RDWSD-60.2* Plt ___
___ 08:35PM BLOOD WBC-7.7 RBC-4.23* Hgb-10.9* Hct-37.5* 
MCV-89 MCH-25.8* MCHC-29.1* RDW-18.5* RDWSD-59.9* Plt ___
___ 06:10AM BLOOD Plt Ct-93*
___ 05:42AM BLOOD Plt Ct-91*
___ 05:42AM BLOOD ___ PTT-65.7* ___
___ 02:03AM BLOOD PTT-65.8*
___ 07:15PM BLOOD PTT-62.7*
___ 01:01PM BLOOD PTT-69.1*
___ 04:11AM BLOOD Plt Ct-91*
___ 04:11AM BLOOD ___ PTT-55.0* ___
___ 05:42AM BLOOD Glucose-96 UreaN-21* Creat-2.6* Na-140 
K-3.8 Cl-101 HCO3-27 AnGap-12
___ 04:11AM BLOOD Glucose-170* UreaN-42* Creat-3.5* Na-138 
K-4.9 Cl-98 HCO3-26 AnGap-14
___ 01:05PM BLOOD Glucose-233* UreaN-38* Creat-3.2* Na-140 
K-4.7 Cl-100 HCO3-27 AnGap-13
___ 02:50AM BLOOD Glucose-197* UreaN-59* Creat-3.1* Na-136 
K-5.5* Cl-97 HCO3-26 AnGap-13
___ 05:09AM BLOOD Glucose-121* UreaN-49* Creat-2.8* Na-136 
K-5.1 Cl-97 HC___ AnGap-12
___ 08:35PM BLOOD Glucose-366* UreaN-44* Creat-2.4* Na-135 
K-5.4* Cl-94* HCO___-29 AnGap-___ who presents to the vascular surgery inpatient unit for a 
planned amputation of the first and third digits of the left 
foot for left foot infection.
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with IV and then PO 
medications throughout the hospital course.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. 
GI/GU/FEN: The patient was on a regular diet that was tailored 
by the renal team to consist of: 2 gm sodium/Heart healthy, 
Phosphorus: 1 gm, Diabetic/Consistent Carbohydrate, Potassium: 2 
gm. He continued dialysis in house.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none. He was maintained on 
vanc/cipro/flagyl for left foot infection which he will continue 
for 10 additional days after discharge. Vancomycin was given IV 
while at hemodialysis.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none. See below for 
anticoagulation management.
Prophylaxis: Perioperatively, the patient was anticoagulated 
with a heparin drip with a goal ptt of 60-80. Prior to 
discharge, he was transitioned back to his home dose of eliquis. 

 
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Apixaban 5 mg PO BID 
3. Atorvastatin 80 mg PO QPM 
4. Metoprolol Tartrate 12.5 mg PO BID 
5. Furosemide 80 mg PO ___ 
6. glimepiride 2 mg oral DAILY 
7. linaGLIPtin 5 mg oral DAILY 
8. Gabapentin 300 mg PO BID 
9. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Moderate 

10. BuPROPion XL (Once Daily) 150 mg PO DAILY 
11. Sertraline 50 mg PO DAILY 
12. ARIPiprazole 5 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
left foot gangrene

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to ___ and 
underwent amputation of the ___ and ___ digits of the left foot. 
You have now recovered from surgery and are ready to be 
discharged. Please follow the instructions below to continue 
your recovery:

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

ACTIVITY: 
• On the side of your amputation you are non weight bearing for 
___ weeks. 
• You should keep this amputation site elevated when ever 
possible. 
• You may use the opposite foot for transfers and pivots.
• No driving until cleared by your Surgeon.
• No heavy lifting greater than 20 pounds for the next 3 weeks. 

BATHING/SHOWERING: 
• You may shower when you get home
• No tub baths or pools / do not soak your foot for 4 weeks from 
your date of surgery 

WOUND CARE:
• Sutures / Staples may have been removed before discharge. If 
they are not, an appointment will be made for you to return for 
staple removal. 
• When the sutures are removed the doctor may or may not place 
pieces of tape called steri-strips over the incision. These will 
stay on about a week and you may shower with them on. If these 
do not fall off after 10 days, you may peel them off with warm 
water and soap in the shower.

CAUTIONS:
• If you smoke, please make every attempt to quit.  Your primary 
care physician can help with this.  Smoking causes narrowing of 
your blood vessels which in turn decreases circulation.  
DIET:
• Low fat, low cholesterol / if you are diabetic – follow your 
dietary restrictions as before 
CALL THE OFFICE FOR: ___
• Bleeding, redness of, or drainage from your foot wound
• New pain, numbness or discoloration of the skin on the 
effected foot
• Fever greater than 101 degrees, chills, increased redness, or 
pus draining from the incision site. 

 
Followup Instructions:
___